US09382237B2
5-((4-hydroxybenzylidene)amino)-3-((4-nitrophenyl)amino)-1H-pyrazole-4-carboxamide (5.0 g) was suspended in 350 mL of MeOH and sodium borohydride was added until bubbling ceased. HPLC confirmed reaction was complete (absence of imine). Once completed (1 hr), precipitate was filtered to obtain 5-((4-hydroxybenzyl)amino)-3-((4-nitrophenyl)amino)-1H-pyrazole-4-carboxamide as an off white to light yellow powder. Product was washed with deionized water to remove excess sodium borohydride. Product was allowed to dry under vacuum for 18 hrs. 4.80 g (95% yield) of final product was obtained.

reactant | 5-((4-hydroxybenzylidene)amino)-3-((4-nitrophenyl)amino)-1H-pyrazole-4-carboxamide | 5.0 g | OC1=CC=C(C=NC2=C(C(=NN2)NC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N)C=C1 | C17H14N6O4
reactant | sodium borohydride | [BH4-].[Na+]
solvent | MeOH | 350 mL | CO | CH4O
product | 5-((4-hydroxybenzyl)amino)-3-((4-nitrophenyl)amino)-1H-pyrazole-4-carboxamide | OC1=CC=C(CNC2=C(C(=NN2)NC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N)C=C1 | C17H16N6O4
